US06288061B1
Methyl 2-cyclohexyl-5-(4-methylphenyl)imidazole-4-carboxylate (900 mg) was dissolved in ethyl alcohol (20 ml). Lithium hydroxide hydrate (1.1 g) and water (10 ml) were added, and the mixture was refluxed under heating for 2.5 hr and concentrated under reduced pressure. To the obtained residue were added water and ethyl acetate, and the mixture was partitioned. The aqueous layer was filtered, and aqueous citric acid was added to the filtrate. The precipitated crystals were collected by filtration to give 2-cyclohexyl-5-(4-methylphenyl)imidazole-4-carboxylic acid (390 mg), melting point 205-206° C.

reactant | Methyl 2-cyclohexyl-5-(4-methylphenyl)imidazole-4-carboxylate | 900 mg | C1(CCCCC1)C=1NC(=C(N1)C(=O)OC)C1=CC=C(C=C1)C | C18H22N2O2
reactant | Lithium hydroxide hydrate | 1.1 g | O.[OH-].[Li+]
reactant | water | 10 ml | O | H2O
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 2-cyclohexyl-5-(4-methylphenyl)imidazole-4-carboxylic acid | 390 mg | C1(CCCCC1)C=1NC(=C(N1)C(=O)O)C1=CC=C(C=C1)C | C17H20N2O2
